US07732616B2
Step C: Preparation of Methyl 2-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate:
To a solution of 4-bromo-2-fluoroaniline (0.192 g, 1.01 mmol) in THF (5 mL) at −78° C. under N2 was added lithium bis(trimethylsilyl)amide (1.50 mL, 1.50 mmol, 1 M solution in hexanes) dropwise. The reaction mixture was stirred for one hour at −78° C. Methyl 2-chloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate (0.202 g, 1.00 mmol) was then added dropwise as a solution in THF (5 mL) and the reaction mixture was stirred for one hour at −78° C. The reaction mixture was quenched by the addition of H2O and the pH was adjusted to pH 7 with saturated NH4Cl and then diluted with EtOAc. The organic layer was separated and washed with saturated NaCl, dried (Na2SO4), and concentrated under reduced pressure. Purification by flash column chromatography (methylene chloride/EtOAc, 15:1) gave 0.232 g (65%) pure desired product as a white crystalline solid.

reactant | 4-bromo-2-fluoroaniline | 1.01 mmol, 0.192 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | lithium bis(trimethylsilyl)amide | 1.50 mmol, 1 M, 1.50 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Methyl 2-chloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 1.00 mmol, 0.202 g | ClC=1N(C(C=CC1C(=O)OC)=O)C | C8H8ClNO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Methyl 2-(4-bromo-2-fluorophenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.232 g, 65% | BrC1=CC(=C(C=C1)NC=1N(C(C=CC1C(=O)OC)=O)C)F | C14H12BrFN2O3
